US07371772B2
To methyl 8-(4-(2-butoxyethoxy)phenyl)-1-formyl-1,2,3,4-tetrahydro-1-benzoazocine-5-carboxylate (4.5 g) were added tetrahydrofuran (66 ml) and methanol (66 ml), followed by adding aqueous 1N sodium hydroxide solution (22 ml). The mixture was stirred at 90° C. for 19 hours. After cooling to 0° C., water was added and the mixture was neutralized with 1N hydrochloric acid. After extracting with ethyl acetate, the organic layer was washed with saturated brine, and dried with magnesium sulfate. The solvent was distilled off under reduced pressure, and the reaction material was re-crystallized from hexane-ethyl acetate to give 8-(4-(2-butoxyethoxy)phenyl)-1-formyl-1,2,3,4-tetrahydro-1-benzoazocine-5-carboxylic acid (2.21 g) as yellow crystals.

reactant | methyl 8-(4-(2-butoxyethoxy)phenyl)-1-formyl-1,2,3,4-tetrahydro-1-benzoazocine-5-carboxylate | 4.5 g | C(CCC)OCCOC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCCN2C=O)C(=O)OC)C1 | C26H31NO5
reactant | tetrahydrofuran | 66 ml | O1CCCC1 | C4H8O
reactant | sodium hydroxide | 1N, 22 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | water | O | H2O
solvent | methanol | 66 ml | CO | CH4O
product | 8-(4-(2-butoxyethoxy)phenyl)-1-formyl-1,2,3,4-tetrahydro-1-benzoazocine-5-carboxylic acid | 2.21 g | C(CCC)OCCOC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCCN2C=O)C(=O)O)C1 | C25H29NO5
